US04827004
A solution of 4 g (0.0017 mol) of (6E,10Z)-12-hydroxy-2,6,10-trimethyl-1,6,10-dodecatrien-3-one in 13 ml of methanol is treated with 4.7 ml of methyl thioglycolate and 7.1 ml of triethylamine. The solution is stirred at room temperature for 18 hours under argon. After removing the solvent the residue is worked-up with water and methylene chloride. The organic phase is dried and freed from solvent. The residue is chromatographed on silica gel with ether. There is obtained methyl [[(6E,10Z)-12-hydroxy-2,6,10-trimethyl-3-oxo-6,10-dodecadienyl]thio]acetate which has the following bands in the IR spectrum: 1736 cm-1, 1711 cm-1, 1437 cm-1, 1408 cm-1, 1281 cm-1, 1137 cm-1, 1007 cm-1.

reactant | (6E,10Z)-12-hydroxy-2,6,10-trimethyl-1,6,10-dodecatrien-3-one | 0.0017 mol, 4 g | OC\C=C(/CC/C=C(/CCC(C(=C)C)=O)\C)\C | C15H24O2
reactant | methyl thioglycolate | 4.7 ml | C(CS)(=O)OC | C3H6O2S
reactant | triethylamine | 7.1 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 13 ml | CO | CH4O
product | methyl [[(6E,10Z)-12-hydroxy-2,6,10-trimethyl-3-oxo-6,10-dodecadienyl]thio]acetate | OC\C=C(/CC/C=C(/CCC(C(CSCC(=O)OC)C)=O)\C)\C | C18H30O4S
